US07994185B2
Intermediate 28: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
To a solution of 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline (35 g, 89.5 mmol) in pyridine (400 mL), 2,6-difluorobenzene-1-sulfonyl chloride (20.9 g, 98.5 mmol) was added dropwise. The reaction was stirred at rt for 2 h. Then the reaction was washed with water (400 mL), and extracted with DCM (2×400 mL). The organic layer was washed with water, brine, dried over anhydrous NaSO4, filtrated and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (petroleum ether:DCM 1:2) to afford the title compound (18.5 g, 36.4% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.03 (d, J=5.3 Hz, 1H), 7.65-7.70 (m, 1H), 7.40-7.50 (m, 1H), 7.25-7.30 (br, 1H), 7.18-7.23 (m, 2H), 6.88-6.98 (m, 2H), 6.38 (d, J=5.3 Hz, 1H), 3.72-3.80 (m, 4H), 3.50-3.58 (m, 4H); m/z (ES+): 568 [M+H]+.

reactant | 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline | 89.5 mmol, 35 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1)F | C17H15ClFN5OS
reactant | 2,6-difluorobenzene-1-sulfonyl chloride | 98.5 mmol, 20.9 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 18.5 g, 36.4% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H17ClF3N5O3S2
